US04363813
Synthesis of 2-(3,4,5-trimethoxyphenyl)-4-methylthiazole-5-carboxylic acid
Ethyl 2-(3,4,5-trimethoxyphenyl)-4-methylthiazolecarboxylate (10.1 g corresponding to its 0.03mol), 150 ml of ethanol and 50 ml of an aqueous 10% solution of sodium hydroxide were heated for 1.5 hours under a reflux condenser. After condensing the reaction mixture to 40 ml and neutralizing the condensate with 6 N hydrochloric acid, the precipitate which separated was washed with water and recrystallized from an aqueous 50% ethanolic solution to obtain the product amounting to 8.3 g, consisting of faintly yellow needle-like crystals, melting at 205° to 207° C. at a yield of 90%.

reactant | Ethyl 2-(3,4,5-trimethoxyphenyl)-4-methylthiazolecarboxylate | 0.03mol, 10.1 g | COC=1C=C(C=C(C1OC)OC)C1(SC=C(N1)C)C(=O)OCC | C16H21NO5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(3,4,5-trimethoxyphenyl)-4-methylthiazole-5-carboxylic acid | yield of 90% | COC=1C=C(C=C(C1OC)OC)C=1SC(=C(N1)C)C(=O)O | C14H15NO5S
